US06277847B1
Step E Preparation of methyl 6-chloro-2-methyl-3-[1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl]benzoate
This compound was prepared in a manner analogous to Step E, Example 1. Here, 8.2 grams (0.0206 mole) of methyl 6-chloro-2-methyl-3-[6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl]benzoate was combined with 5.7 grams (0.410 mole) of potassium carbonate and 4.4 grams (0.309 mole) of methyl iodide in 200 mL of THF. The reaction product was purified by column chromatography on silica gel using mixtures of EtOAc and hexane as eluants. The fractions containing product were combined and concentrated under reduced pressure, yielding 7.8 grams of subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | methyl 6-chloro-2-methyl-3-[6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl]benzoate | 0.0206 mole, 8.2 grams | ClC1=CC=C(C(=C1C(=O)OC)C)N1C(NC(=CC1=O)C(F)(F)F)=O | C14H10ClF3N2O4
reactant | potassium carbonate | 0.410 mole, 5.7 grams | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.309 mole, 4.4 grams | CI | CH3I
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | methyl 6-chloro-2-methyl-3-[1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl]benzoate | 7.8 grams | ClC1=CC=C(C(=C1C(=O)OC)C)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C15H12ClF3N2O4
